US06924374B2
1-Isopropyl-4-(3-Methanesulfonyl-4-methoxy-phenyl)-piperazine
Beginning with 1-(3-Methanesulfonyl-4-methoxy-phenyl)-piperazine and isopropylbromide, the title compound was recovered by the procedure described in Example 2: MS m/z (rel. intensity, 70 eV)) 312 (M+, 43), 297 (bp), 84 (35), 71 (33), 56 (73).

reactant | 1-(3-Methanesulfonyl-4-methoxy-phenyl)-piperazine | CS(=O)(=O)C=1C=C(C=CC1OC)N1CCNCC1 | C12H18N2O3S
reactant | isopropylbromide | C(C)(C)Br | C3H7Br
product | 1-Isopropyl-4-(3-Methanesulfonyl-4-methoxy-phenyl)-piperazine | C(C)(C)N1CCN(CC1)C1=CC(=C(C=C1)OC)S(=O)(=O)C | C15H24N2O3S
